US06630496B1
1-Benzhydryl-5-(2-thienyl)-1H-indole-2-carboxylic Acid
The title compound was prepared according to the procedure described in Example 109 except that 1-benzhydryl-5-bromo-1H-indole-2-carboxylic acid and 2-thiopheneboronic acid were used.

reactant | 1-benzhydryl-5-bromo-1H-indole-2-carboxylic acid | C(C1=CC=CC=C1)(C1=CC=CC=C1)N1C(=CC2=CC(=CC=C12)Br)C(=O)O | C22H16BrNO2
reactant | 2-thiopheneboronic acid | S1C(=CC=C1)B(O)O | C4H5BO2S
product | 1-Benzhydryl-5-(2-thienyl)-1H-indole-2-carboxylic Acid | C(C1=CC=CC=C1)(C1=CC=CC=C1)N1C(=CC2=CC(=CC=C12)C=1SC=CC1)C(=O)O | C26H19NO2S
